US07902239B2
4-[5-Amino-3-(3,4,5-trimethoxy-phenylamino)-[1,2,4]triazol-1-yl]-benzamide;
0° C., 1,1′-carbonyldiimidazole (83 mg, 0.5 mmol) was added to a solution of 4-[5-amino-3-(3,4,5-trimethoxy-phenylamino)-[1,2,4]triazol-1-yl]-benzoic acid (100 mg, 0.25 mmol) in DMF (3 mL). The reaction mixture was stirred at rt. for 1 h, and ammonia (7.0M in MeOH, 1 mL) was added. The reaction mixture was stirred at rt. for 2 days. The mixture was then purified by semi-prep HPLC. FIA-MS: m/e=385.1 (M+H), 383.1 (ES−). Rt=3.60 min (method A). 1H-NMR (500 MHz, DMSO(d6)): 8.87 (s, 1H), 8.02 (br.s, 1H), 7.99 (d, 2H), 7.67 (d, 2H), 7.39 (br.s, 1H), 7.00 (s, 2H), 6.62 (s, 2H), 3.78 (s, 6H), 3.65 (s, 3H).

reactant | 1,1′-carbonyldiimidazole | 0.5 mmol, 83 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[5-amino-3-(3,4,5-trimethoxy-phenylamino)-[1,2,4]triazol-1-yl]-benzoic acid | 0.25 mmol, 100 mg | NC1=NC(=NN1C1=CC=C(C(=O)O)C=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C18H19N5O5
reactant | ammonia | 7.0M, 1 mL | N | H3N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-[5-Amino-3-(3,4,5-trimethoxy-phenylamino)-[1,2,4]triazol-1-yl]-benzamide | NC1=NC(=NN1C1=CC=C(C(=O)N)C=C1)NC1=CC(=C(C(=C1)OC)OC)OC | C18H20N6O4
